US06696471B2
To 3.0 g (21 mmol) of benzoyl acetonitrile in 50 mL of THF, cooled in a wet ice bath, was added 0.84 g (21 mmol) of sodium hydride (60% oil dispersion). After 1 h, added 2.8 g (10 mmol) of 3-bromoacetylpyridine hydrobromide. After 3 h, poured the reaction mixture into brine, extracted with ethyl acetate, dried over sodium sulfate, concentrated under reduced pressure and purified by flash chromatography (gradient elution: 40-80% ethyl acetate/hexane) to give 2.6 g (93%) of 2-benzoyl-4-oxo-4-pyridin-3-yl-butyronitrile (MH+=265).

reactant | benzoyl acetonitrile | 21 mmol, 3.0 g | C(C1=CC=CC=C1)(=O)CC#N | C9H7NO
reactant | sodium hydride | 21 mmol, 0.84 g | [H-].[Na+]
reactant | 3-bromoacetylpyridine hydrobromide | 10 mmol, 2.8 g | Br.BrCC(=O)C=1C=NC=CC1
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 2-benzoyl-4-oxo-4-pyridin-3-yl-butyronitrile | 2.6 g, 93% | C(C1=CC=CC=C1)(=O)C(C#N)CC(C=1C=NC=CC1)=O | C16H12N2O2
